AEL functional power-path transient model
.param source_resistance='0.1 + AEL_fault_scale*12'
.param capacitance='47u/(1 + AEL_fault_scale*20)'
Vsource source 0 3.3
Rsource source rail {source_resistance}
Cdec rail 0 {capacitance} ic=3.3
Iload rail 0 PWL(0 0.002 100u {AEL_load_microamp*1u+AEL_rf_retries*0.004} 3m {AEL_load_microamp*1u+AEL_rf_retries*0.004})
.tran 2u 4m uic
.measure tran ael_supply_voltage MIN v(rail) FROM=100u TO=4m
.measure tran ael_peak_current MAX i(Vsource) FROM=100u TO=4m
.measure tran ael_power AVG par('-v(source)*i(Vsource)') FROM=100u TO=4m
.end
